US03934008
32. H-Lys(BOC)-Phe-His-OMe
6.8 g of Z-Lys(BOC)-Phe-His-OMe in 140 ml of methanol are hydrogenated in the presence of 1 g of 10 % strength Pd on charcoal. After completion of the hydrogenation the catalyst is filtered off, the filtrate evaporated to dryness and the residue immediately processed further.

reactant | Z-Lys(BOC)-Phe-His-OMe | 6.8 g | N([C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC1=CNC=N1)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C35H46N6O8
solvent | methanol | 140 ml | CO | CH4O
catalyst | Pd on charcoal | [Pd] | Pd
product | H-Lys(BOC)-Phe-His-OMe | N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC1=CNC=N1)C(=O)OC | C27H40N6O6
